US07232926B2
N-Allyl-N-(2-cyanoethyl)sulfamoyl chloride
64.8 g (0.641 mol) of sulfur trioxide were added as a 57% solution in 1,2-dichloroethane at from 0 to 5° C. with stirring within 15 minutes to a solution of 90.6 g (0.846 mol) of 2,6-lutidine in 200 ml of 1,2-dichloroethane, followed by washing with 40 ml of 1,2-dichloroethane and stirring for 15 minutes until the temperature had risen to 22° C. Subsequently, 42.4 g (0.385 mol) of N-allyl-N-(2-cyanoethyl)amine were added at from 20 to 30° C. with stirring within 15 minutes, followed by washing with 40 ml of 1,2-dichloroethane and stirring at 50° C. for 15 minutes. After cooling to 22° C., 70.8 g (0.61 mol) of phosphorus oxychloride were added with stirring at from 20 to 30° C. within 15 minutes, followed by washing with 120 ml of 1,2-dichloroethane and heating to 70° C. After stirring at this temperature for 1 hour, the reaction mixture was allowed to cool to 25° C., concentrated under reduced pressure and distilled through a Normag column head with a 10 cm column. 32.3 g (40% of theory) of the title compound with a b.p. of from 110 to 116° C./0.4 mbar were obtained. Refractive index: nD23=1.4948.

reactant | sulfur trioxide | 0.641 mol, 64.8 g | S(=O)(=O)=O | O3S
reactant | 2,6-lutidine | 0.846 mol, 90.6 g | N1=C(C=CC=C1C)C | C7H9N
reactant | N-allyl-N-(2-cyanoethyl)amine | 0.385 mol, 42.4 g | C(C=C)NCCC#N | C6H10N2
reactant | phosphorus oxychloride | 0.61 mol, 70.8 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 200 ml | ClCCCl | C2H4Cl2
product | N-Allyl-N-(2-cyanoethyl)sulfamoyl chloride | C(C=C)N(S(=O)(=O)Cl)CCC#N | C6H9ClN2O2S
